* ldo_simple -- PSRR, min load on TSMC16 BSIM-CMG
* Measurement set is AnalogGym's TB_LDO_ACDC / TB_LDO_Tran.
.include ./tsmc16_models.spice
.include ./netlist.spice

.PARAM supply_voltage = 0.8
.PARAM Vref = 0.6
.PARAM VOUT_NOM = 0.6
V2 vss 0 0
Vindc vref_in 0 'Vref'
VVDDApsrr vddpsrr 0 'supply_voltage' AC=1
.nodeset V(vp)=0.6
x2 vddpsrr vp vref_in vp_vb 0 vp ldo_simple
V2_vb vp_vb 0 0.4
CL2 vp 0 1e-07
Iload2 vp 0 0.005
.meas ac psrr_min find vdb(vp) at=0.1
.end
